US05371093
[2-Benzothiazolyl][1-[3-(4-acetamidophenyl)propoxy]-4-piperidinyl]methanone
Mix (2-benzothiazolyl)(4-piperidinyl)methanone.CF3CO2H (3.45 g, 9.6 mmol), 1-(3-chloropropoxy)-4-acetamidobenzene (2.20 g, 9.66 mmol), sodium bicarbonate (1.68 g, 20.0 mmol), sodium iodide (1.50 g, 10.0 mmol), tetrahydrofuran (100 mL) and water (20 mL). Place under an argon atmosphere and heat at reflux for 24 hours. Dilute with ethyl acetate (100mL) and wash with water (50 mL) and brine (50 mL). Dry (MgSO4), evaporate the solvent in vacuo to give a pale yellow solid. Purify by recrystallization (ethanol) to give the title compound as a pale yellow solid; mp 171°-172° C.

reactant | (2-benzothiazolyl)(4-piperidinyl)methanone | S1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C13H14N2OS
reactant | CF3CO2H | 9.6 mmol, 3.45 g | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | 1-(3-chloropropoxy)-4-acetamidobenzene | 9.66 mmol, 2.20 g | ClCCCOC1=CC=C(C=C1)NC(C)=O | C11H14ClNO2
reactant | sodium bicarbonate | 20.0 mmol, 1.68 g | C([O-])(O)=O.[Na+]
reactant | sodium iodide | 10.0 mmol, 1.50 g | [I-].[Na+]
solvent | ethyl acetate | 100mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | [2-Benzothiazolyl][1-[3-(4-acetamidophenyl)propoxy]-4-piperidinyl]methanone | S1C(=NC2=C1C=CC=C2)C(=O)C2CCN(CC2)OCCCC2=CC=C(C=C2)NC(C)=O | C24H27N3O3S
